US07485634B2
Preparation of 9-Bromo-3-(4-fluorobenzoyl)-1,2,3,6-tetrahydroazepino[4,5-b]indole-5-carboxylic acid ethyl ester
The title compound was prepared in a manner similar to that described in Example 2A by using 9-bromo-1,2,3,6-tetrahydroazepino[4,5-b]indole-5-carboxylic acid ethyl ester and 4-fluorobenzoyl chloride; 1H-NMR (CDCl3): δ 10.56 (1H, s), 7.98 (1H, s), 7.56 (3H, m), 7.19 (1H, m), 7.09 (2H, m), 4.17 (4H, m), 3.13 (2H, m), 1.13 (3H, t). MS (ESI): 457, 459 (MH+).

reactant | 9-bromo-1,2,3,6-tetrahydroazepino[4,5-b]indole-5-carboxylic acid ethyl ester | C(C)OC(=O)C1=CNCCC2=C1NC=1C=CC(=CC21)Br | C15H15BrN2O2
reactant | 4-fluorobenzoyl chloride | FC1=CC=C(C(=O)Cl)C=C1 | C7H4ClFO
product | 9-Bromo-3-(4-fluorobenzoyl)-1,2,3,6-tetrahydroazepino[4,5-b]indole-5-carboxylic acid ethyl ester | C(C)OC(=O)C1=CN(CCC2=C1NC=1C=CC(=CC21)Br)C(C2=CC=C(C=C2)F)=O | C22H18BrFN2O3
